US05849764
Step 7.2E 2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)-butylamino]ethyl]-1H-indol-5-yl]-N,N-dibutylisobutyramide
A mixture of 76.5 mg (0.105 mmol) of [2-[5-(1-dibutylcarbamoyl-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(pyridin-3-yl)butyl]carbamic acid benzyl ester, 40 mg of 10% palladium on carbon, 4 ml of absolute EtOH, and 4 ml of EtOAc was shaken with H2 (approx. 47 psig) in a pressure vessel for 6 hours. The catalyst was removed by filtration through Celite under N2, and the filtrate was concentrated in vacuo at room temperature. The residue was purified by preparative TLC on 4 Analtech tapered silica gel plates (20×20 cm), which were developed in 92.5:7.5:0.75 CH2Cl2 -MeOH-concentrated NH4OH. The product band from each plate was isolated, combined, and extracted with 92.5:7.5:0.75 CH2Cl2 -MeOH-concentrated NH4OH. Concentration of the extracts in vacuo yielded 51.4 mg (82%) of a pale yellow, stiff gum; homogeneous by TLC in 92.5:7.5:0.75 CH2Cl2 -MeOH-concentrated NH40H. 500 MHz 1H NMR (CDCl3) was consistent with the assigned structure. Mass spectrum (ESI): m/e 595.6 (M+H)+.

reactant | [2-[5-(1-dibutylcarbamoyl-1-methylethyl)-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]-[4-(pyridin-3-yl)butyl]carbamic acid benzyl ester | 0.105 mmol, 76.5 mg | C(C1=CC=CC=C1)OC(N(CCCCC=1C=NC=CC1)CCC1=C(NC2=CC=C(C=C12)C(C)(C)C(N(CCCC)CCCC)=O)C1=CC(=CC(=C1)C)C)=O | C47H60N4O3
reactant | EtOH | 4 ml | CCO | C2H6O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | EtOAc | 4 ml | CCOC(=O)C | C4H8O2
product | 2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)-butylamino]ethyl]-1H-indol-5-yl]-N,N-dibutylisobutyramide | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC=1C=NC=CC1)C(C(=O)N(CCCC)CCCC)(C)C | C39H54N4O
